US08937092B2
To a stirred solution of 2-(3-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (217 mg, 5.13 mmol) in dry ethanol (15 mL), cooled to 0° C., were added nickel(II) chloride hexahydride (121 mg, 5.13 mmol). Sodium borohydride (136 mg, 35.9 mmol) was added in small portions over 10 min. The reaction mixture was allowed to warm to room temperature and left to stir for a further 1 h. The purple residue was dissolved in ethyl acetate (50 mL) and extracted with saturated NaHCO3. The organic layer was dried over magnesium sulfate and the solvent removed in vacuo to yield 2-(3-(aminomethyl)phenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (130 mg, 60%).

reactant | 2-(3-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 5.13 mmol, 217 mg | C(#N)C=1C=C(C=CC1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C24H20F3N3O
reactant | Sodium borohydride | 35.9 mmol, 136 mg | [BH4-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | nickel(II) chloride hexahydride | 5.13 mmol, 121 mg | [NiH6-5]Cl
product | 2-(3-(aminomethyl)phenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 130 mg, 60% | NCC=1C=C(C=CC1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C24H24F3N3O
